US07011838B2
First, 1.02 g of (4-chlorobenzylidene)malononitrile was dissolved in 20 ml of tetrahydrofuran, to which a catalytic amount of copper (I) iodide was added, and while stirring under ice cooling, a solution of isopropyl magnesium bromide in tetrahydrofuran (prepared from 0.34 g of magnesium, 10 ml of tetrahydrofuran, and 1.46 ml of isopropyl bromide) was added dropwise, followed by stirring for 30 minutes under ice cooling. Then, 10% hydrochloric acid was added to the reaction mixture, which became acidic and was extracted with ethyl ether. The organic layer was successively washed with 10% hydrochloric acid, a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.66 g of (1-(4-chlorophenyl)-2-methylpropyl)malononitrile (the intermediate (3)).

reactant | (4-chlorobenzylidene)malononitrile | 1.02 g | ClC1=CC=C(C=C(C#N)C#N)C=C1 | C10H5ClN2
reactant | isopropyl magnesium bromide | C(C)(C)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | copper (I) iodide | [Cu]I
solvent | tetrahydrofuran | 10 ml, 0.34 g | O1CCCC1 | C4H8O
product | (1-(4-chlorophenyl)-2-methylpropyl)malononitrile | 0.66 g, Yield: 52% | ClC1=CC=C(C=C1)C(C(C)C)C(C#N)C#N | C13H13ClN2
